US06297261B1
2-Amino-4-phenylbenzonitrile
A mixture of 2-amino-5-bromobenzonitrile (1.0 g, 5 mmol), phenylboronic acid (0.92 g, 7.5 mmol), tetrakis(triphenylphosphine)palladium (50 mg) and potassium carbonate (3.5 g, 25 mmol) in dimethoxyethane/water 2:1 (60 mL) was heated at reflux for 4 hours. After cooling to room temperature the reaction was diluted with water and extracted with ethyl acetate. The organic phase was dried and solvent evaporated. Trituation with petroleum ether gave 0.89 g of the desired compound.

reactant | 2-amino-5-bromobenzonitrile | 5 mmol, 1.0 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | phenylboronic acid | 7.5 mmol, 0.92 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 25 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane water | 60 mL | C(OC)COC.O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-4-phenylbenzonitrile | 0.89 g | NC1=C(C#N)C=CC(=C1)C1=CC=CC=C1 | C13H10N2
